US05430163
1.05 g palladium chloride were added to a 100 mL methanol solution containing 3.9 g sodium acetate and 4.6 g dibenzylideneacetone. The reaction mixture was warmed to 55° C. and the temperature maintained for one hour so that a precipitate was formed. The precipitate was then filtered from the methanol and redissolved in chloroform to produce a dark purple solution. This solution was stripped under reduced pressure at 25°-30° C. to produce a dark purple or black solid of Pd2DBA3.CHCl3. 1.5 g of the solid was dissolved in 100 mL THF, and added to a solution of 140-150 g of 30-5 NBR in 1.1-1.2 L THF. After 22 hours at 75°-90° C. and 350 psi hydrogen, a sample was withdrawn and a cast film IR analysis indicated that 63 percent of the olefinic NBR unsaturation had been hydrogenated.

reactant | palladium chloride | 1.05 g | [Pd](Cl)Cl
reactant | sodium acetate | 3.9 g | C(C)(=O)[O-].[Na+]
reactant | dibenzylideneacetone | 4.6 g | C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1 | C17H14O
solvent | methanol | 100 mL | CO | CH4O
product | Pd2DBA3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd] | InChI=1S/3C17H14O.2Pd/c3*18-17(13-11-15-7-3-1-4-8-15)14-12-16-9-5-2-6-10-16;;/h3*1-14H;;/b3*13-11+,14-12+;;
